US07297347B2
The prepolymer of sebacic acid (SA) was prepared from the purified diacid monomer by refluxing in excess acetic anhydride for 30 minutes and evaporating the solvent to dryness. The hot clear viscous residue was dissolved in an equal volume of dichloromethane and precipitated in a mixture of ether/petroleum ether (1:1 v/v). The white precipitate was collected by filtration and dried by vacuum at room temperature. Acetyl terminated fatty acid anhydrides were prepared by dissolving the acids in acetic anhydride (120° C., 1:5 w/v) and refluxing for 20 min. Acetate anhydrides of oleic acid, linoleic acid and other cis-double bond containing fatty acid were prepared by refluxing the fatty acid in acetic anhydride for 20 min. and evaporating the solvent to dryness to obtain a liquid. Mixed prepolymers of diacids with the monoacid terminals were prepared similarly.

reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | linoleic acid | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)O | C18H32O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | sebacic acid | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
